US06124323
1-[2-(4-Hydroxy-3-methylphenoxy)ethyl]-4-(2-fluoro-4-methylbenzyl)piperidine hydrochloride
The title compound was prepared from 4-(2-fluoro-4-methylbenzyl)piperidine hydrochloride (311.7 mg, 1.28 mmol), 2-(4-benzyloxy-3-methylphenoxy)ethyl bromide (411 mg, 1.28 mmol) and potassium carbonate (444 mg, 3.2 mmol) in two steps as white-off solid (244 mg), mp 165-167° C. 1H NMR (CD3OD) 1.503 (m, 2 H), 1.848 (m, 3 H), 2.076 (s, 3 H), 2.223 (s, 3 H), 2.560 (m, 2 H), 2.932 (m, 2 H), 3.389 (m, 2 H), 3.526 (m, 2 H), 4.141 (t, J=5.1 Hz, 2 H), 6.758 (s, 1 H), 6.667 (s, 1 H), 6.788-6.858 (m, 3 H), 7.109 (m, 1 H). Anal. Calcd for C22H29ClFNO2 : C, 67.08; H, 7.42; N, 3.98. Found: C, 66.85; H, 7.44; N, 3.46.

reactant | 4-(2-fluoro-4-methylbenzyl)piperidine hydrochloride | 1.28 mmol, 311.7 mg | Cl.FC1=C(CC2CCNCC2)C=CC(=C1)C
reactant | 2-(4-benzyloxy-3-methylphenoxy)ethyl bromide | 1.28 mmol, 411 mg | C(C1=CC=CC=C1)OC1=C(C=C(OCCBr)C=C1)C | C16H17BrO2
reactant | potassium carbonate | 3.2 mmol, 444 mg | C([O-])([O-])=O.[K+].[K+]
product | 1-[2-(4-Hydroxy-3-methylphenoxy)ethyl]-4-(2-fluoro-4-methylbenzyl)piperidine hydrochloride | Cl.OC1=C(C=C(OCCN2CCC(CC2)CC2=C(C=C(C=C2)C)F)C=C1)C | InChI=1S/C22H28FNO2.ClH/c1-16-3-4-19(21(23)13-16)15-18-7-9-24(10-8-18)11-12-26-20-5-6-22(25)17(2)14-20;/h3-6,13-14,18,25H,7-12,15H2,1-2H3;1H
